US07446210B2
3-[7-Fluoro-3-methyl-6-(4-pyridin-2-yl-piperazin-1-yl)-indazol-1-yl]-benzylamine
3-[7-Fluoro-3-methyl-6-(3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-indazol-1-yl-benzonitrile: To a 5 ml round bottom flask equipped with magnetic stirrer, condenser, and argon inlet, 3-(7-fluoro-6-iodo-3-methyl-indazol-1-yl)-benzonitrile (189 mg, 0.5 mmole), 1-pyridin-2-yl piperazine (180 mg, 1.1 mmole), Pd2 (dba)3 (23 mg, 0.025 mmole), BINAP (31 mg, 0.050 mmole), NaO-t-Bu (69 mg, 0.70 mmole) were added. The reaction mixture was purged with argon for 10 minutes. Toluene (0.5 ml) was added. The reaction mixture was heated to reflux for 18 hrs. The reaction was partitioned with EtOAc, and filtered through Celite. The solvent was then removed under vacuum. The desired product (74 mg, 36% yield) was isolated via column chromatography with Hexanes/EtOAc (7/3) as eluent. 1H-NMR (400 MHz, CDCl3): δ 2.62 (s, 3H), 3.33 (t, J=4.93 Hz, 4H), 3.77 (t, J=4.93 Hz, 4H), 6.67-6.71 (m, 1 Hz), 6.74 (d, J=8.79 Hz, 1H), 7.03 (dd, J=8.36 Hz, 6.64 Hz, 1H), 7.44 (d, J=8.57 Hz, 1H), 7.52-7.57 (m, 1H), 7.58-7.65 (m, 2H), 7.86-7.91 (m, 1H), 7.93-7.96 (m, 1H), 8.24-8.26 (m, 1H).

reactant | 7-Fluoro-3-methyl-6-(3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-indazol-1-yl-benzonitrile | FC=1C(=CC=C2C(=NN(C12)C1=C(C#N)C=CC=C1)C)N1CCC(CC1)C1=NC=CC=C1 | C25H22FN5
reactant | 3-(7-fluoro-6-iodo-3-methyl-indazol-1-yl)-benzonitrile | 0.5 mmole, 189 mg | FC=1C(=CC=C2C(=NN(C12)C=1C=C(C#N)C=CC1)C)I | C15H9FIN3
reactant | 1-pyridin-2-yl piperazine | 1.1 mmole, 180 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | BINAP | 0.050 mmole, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaO-t-Bu | 0.70 mmole, 69 mg | O([Na])C(C)(C)C
catalyst | Pd2 (dba)3 | 0.025 mmole, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[7-Fluoro-3-methyl-6-(4-pyridin-2-yl-piperazin-1-yl)-indazol-1-yl]-benzylamine | 74 mg, 36% yield | FC=1C(=CC=C2C(=NN(C12)C=1C=C(CN)C=CC1)C)N1CCN(CC1)C1=NC=CC=C1 | C24H25FN6
